US07129239B2
Preparation of Intermediate 9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-ol (I-(1A-1)c)
A suspension of 2,4-dichloro-N-[4-chloro-6-(4-chlorophenylamino)-pyrimidin-5-yl]-benzamide I-(1A-1)b (48 g, 0.11 mol) in acetic acid (1 l) was heated to reflux for 7 hours. The reaction mixture was cooled to 0° C., the product (colorless needles) was collected by vacuum filtration, and the solid was washed with additional acetic acid, ethyl acetate, and then ether. The product was dried overnight under high vacuum to afford the title compound I-(1A-1)c (32 g, 73%) as a colorless, fluffy solid. The mother liquor was concentrated under reduced pressure and the solid crystallized from methanol to provide additional material (16 g) as a colorless solid: mp 314–315° C.; +ESI MS (M+1) 391.3; 1H NMR: (400 MHz, CD3OD): δ 8.06 (s, 1H), 7.61 (d, J=8.3 Hz, 1H), 7.52 (d, J=2.1 Hz, 1H), 7.48–7.41 (m, 3H), 7.31 (d, J=8.7 Hz, 2H).

reactant | 2,4-dichloro-N-[4-chloro-6-(4-chlorophenylamino)-pyrimidin-5-yl]-benzamide | 0.11 mol, 48 g | ClC1=C(C(=O)NC=2C(=NC=NC2NC2=CC=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C17H10Cl4N4O
reactant | acetic acid | 1 l | C(C)(=O)O | C2H4O2
product | 9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-ol | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)O | C17H9Cl3N4O
